### PR TITLE
Algebraic geometry - up to the definition of schemes

### LINKED ISSUE #1316: algebraic geometry
It would be good to start formalizing classical algebraic geometry, starting with the Zariski topology on Spec R and its sheaf of rings.  Kevin Buzzard mentioned this in a recent talk online.

### PR DESCRIPTION
**Pull request by arnoudvanderleer**
Resolves #1316, insofar as that has not yet been done in #1385.

### CODE REVIEW

**Comment by arnoudvanderleer** [comment]
So it turns out (as we may have suspected already) that the category of is univalent ^^

**Comment by arnoudvanderleer** [comment]
Note that this just adds the basic definition of a scheme. I expect the package needs a lot of work before we can actually start proving anything real.

File: UniMath/AlgebraicGeometry/CategoryOfOpens.v [hunk 1]
```diff
@@ -0,0 +1,105 @@
+(**************************************************************************************************
+
+  The category of open subsets
```
Comment (nmvdw) [inline UniMath/AlgebraicGeometry/CategoryOfOpens.v:3]: Does this functor give rise to an indexed category on `Top`? So to a pseudo functor `Top -> Cat`?

See: https://github.com/UniMath/UniMath/tree/master/UniMath/CategoryTheory/IndexedCategories

File: UniMath/AlgebraicGeometry/Topology.v [hunk 2]
```diff
@@ -1,70 +0,0 @@
-(* Additional definitions and facts from topology. Maybe this should go in UniMath.Topology. *)
```
Comment (nmvdw) [inline UniMath/AlgebraicGeometry/Topology.v:1]: What happened to this file?

File: UniMath/AlgebraicGeometry/PresheafedSpaces.v [hunk 3]
```diff
@@ -0,0 +1,585 @@
...
+  2. The embedding of the functor category into a fiber
+    [functor_to_fiber_presheaf_functor] [functor_to_fiber_presheaf_functor_fully_faithful]
+  3. Univalence [is_univalent_presheafed_space_cat]
+  4. Types and accessors [presheafed_space] [presheafed_space_morphism]
+  5. Restriction of a presheafed space to an open subset [presheafed_space_restriction]
+
+ **************************************************************************************************)
+Require Import UniMath.Foundations.All.
+Require Import UniMath.MoreFoundations.All.
+Require Import UniMath.Bicategories.Core.Bicat.
```
Comment (nmvdw) [inline UniMath/AlgebraicGeometry/PresheafedSpaces.v:28]: If we add a dependency on `Bicategories`, we should notify the Coq developers to remove `AlgebraicGeometry` from the CI (due to memory consumption).

File: UniMath/AlgebraicGeometry/PresheafedSpaces.v [hunk 4]
```diff
@@ -0,0 +1,585 @@
...
+      exact (functor_opp (continuous_to_functor f) ∙ Xdata ⟹ Ydata).
+  - use tpair.
+    + intros X Xdata.
+      refine (nat_trans_comp _ _ _ _ (lunitor (C := bicat_of_cats) Xdata)).
+      refine (post_whisker _ _).
+      refine (nat_trans_comp _ _ _ (op_nt (inv_from_z_iso (continuous_to_functor_identity _))) _).
+      apply (inv_from_z_iso (C := [_^op, _^op])).
+      apply (z_iso_from_nat_z_iso (homset_property _)).
+      exact (op_triangle_nat_z_iso _).
+    + intros X Y Z f g Xdata Ydata Zdata fdata gdata.
```
Comment (nmvdw) [inline UniMath/AlgebraicGeometry/PresheafedSpaces.v:67]: There is a slight disadvantage to this definition: the unitors and associators add unnecessary identities to the pointwise morphism of the natural transformation. So, defining this transformation by hand might make it simpler to use.

File: UniMath/AlgebraicGeometry/PresheafedSpaces.v [hunk 5]
```diff
@@ -0,0 +1,585 @@
...
+      refine (nat_trans_comp _ _ _ _ (rassociator (C := bicat_of_cats) (a := (open_category Z)^op) (b := (open_category Y)^op) _ _ _)
+      ).
+      refine (post_whisker _ Xdata).
+      refine (nat_trans_comp _ _ _ (op_nt (inv_from_z_iso (continuous_to_functor_compose _ _))) _).
+      apply (inv_from_z_iso (C := [_^op, _^op])).
+      apply (z_iso_from_nat_z_iso (homset_property _)).
+      exact (functor_comp_op_nat_z_iso _ _).
+Defined.
+
+Local Lemma aux1
```
Comment (nmvdw) [inline UniMath/AlgebraicGeometry/PresheafedSpaces.v:79]: The name can be improved. In addition, this is a transport lemma and those often are reusable.

File: UniMath/AlgebraicGeometry/PresheafedSpaces.v [hunk 6]
```diff
@@ -0,0 +1,585 @@
...
+  - intro P.
+    apply (nat_trans_eq (homset_property _)).
+    intro x.
+    apply id_right.
+  - intros P Q R f g.
+    refine (_ @ !aux1 _ _ _ _).
+    apply (nat_trans_eq (homset_property _)).
+    intro x.
+    cbn.
+    refine (maponpaths (λ x, x · _) (id_right _) @ _).
```
Comment (nmvdw) [inline UniMath/AlgebraicGeometry/PresheafedSpaces.v:232]: Does `rewrite id_right` not work in this proof? Especially something like `rewrite !id_right.`

File: UniMath/AlgebraicGeometry/PresheafedSpaces.v [hunk 7]
```diff
@@ -0,0 +1,585 @@
...
+  := pr1 f.
+
+Definition presheafed_space_morphism_to_nat_trans
+  {D : category}
+  {X Y : presheafed_space D}
+  (f : presheafed_space_morphism X Y)
+  : functor_opp (continuous_to_functor f) ∙ presheafed_space_presheaf X ⟹ presheafed_space_presheaf Y
+  := pr2 f.
+
+(** TODO : Move this section to a separate file, or not? *)
```
Comment (nmvdw) [inline UniMath/AlgebraicGeometry/PresheafedSpaces.v:369]: `TODO` have a tendency of remaining TODOs by being forgotten. So, it would be good to find a suitable place for general stuff about subtypes. Perhaps in `MoreFoundations`?

File: UniMath/AlgebraicGeometry/RingedSpaces.v [hunk 8]
```diff
@@ -0,0 +1,192 @@
...
+Require Import UniMath.CategoryTheory.Core.Functors.
+Require Import UniMath.CategoryTheory.Core.Univalence.
+Require Import UniMath.CategoryTheory.DisplayedCats.Constructions.
+Require Import UniMath.Topology.Topology.
+
+Local Open Scope cat.
+Local Open Scope subtype.
+Local Open Scope open.
+
+(* TODO: Show that the restriction of a ringed space is again a ringed space *)
```
Comment (nmvdw) [inline UniMath/AlgebraicGeometry/RingedSpaces.v:33]: Is this TODO a necessary part that is currently missing? Or is it more a 'nice thing to have'?

File: UniMath/AlgebraicGeometry/RingedSpaces.v [hunk 9]
```diff
@@ -0,0 +1,192 @@
...
+  Context (X : presheafed_space commring_category).
+
+  Let F (U : Open (T := X)) : commring := presheafed_space_presheaf X U.
+
+  Definition restriction {U V : Open} (H : U ⊆ V) : ringfun (F V) (F U) := #(presheafed_space_presheaf X) H.
+
+  Definition restrict (A : hsubtype Open) (f : F (⋃ A)) (U : A) : F (pr1 U) :=
+    restriction (contained_in_union_open U) f.
+
+  Definition has_locality
```
Comment (nmvdw) [inline UniMath/AlgebraicGeometry/RingedSpaces.v:48]: Is `has_locality` an hProp?

File: UniMath/AlgebraicGeometry/RingedSpaces.v [hunk 10]
```diff
@@ -0,0 +1,192 @@
...
+          intro U.
+          exact (pr2 f U @ !pr2 f' U).
+      + intro t.
+        refine (pr1 (isaset_carrier_subset _ (λ _, make_hProp _ _) f f' t _)).
+        apply impred_isaprop.
+        intro.
+        apply setproperty.
+  Qed.
+
+  Definition has_sheaf : UU
```
Comment (nmvdw) [inline UniMath/AlgebraicGeometry/RingedSpaces.v:106]: The name `has_sheaf` is confusing. What about `isasheaf`?

File: UniMath/AlgebraicGeometry/Schemes.v [hunk 11]
```diff
@@ -0,0 +1,100 @@
...
+Require Import UniMath.CategoryTheory.Core.Univalence.
+Require Import UniMath.CategoryTheory.DisplayedCats.Constructions.
+Require Import UniMath.Topology.Topology.
+
+Local Open Scope cat.
+
+(* TODO: Show that a scheme is not only a ringed space, but also a *locally* ringed space *)
+(* TODO: Show that a presheafed space is a ringed space if it is locally isomorphic to an affine scheme *)
+
+Section Schemes.
```
Comment (nmvdw) [inline UniMath/AlgebraicGeometry/Schemes.v:32]: Is there a reason for this section? There are no arguments being shared between the identifiers?

File: UniMath/AlgebraicGeometry/SheavesOfRings.v [hunk 12]
```diff
@@ -1,70 +0,0 @@
-Require Import UniMath.Algebra.RigsAndRings.
```
Comment (nmvdw) [inline UniMath/AlgebraicGeometry/SheavesOfRings.v:1]: Just for clarity, the contents of this file has been incorporated into `RingedSpaces.v`?

File: UniMath/Topology/Topology.v [hunk 13]
```diff
@@ -5,101 +5,117 @@
 Require Import UniMath.Foundations.All.
```
Comment (nmvdw) [inline UniMath/Topology/Topology.v:5]: The diffs of this file are a bit confusing. Can you give a short description on what happened in this file?

**Review by nmvdw — APPROVED** [review]
Looks good. I have some minor comments.

File: UniMath/AlgebraicGeometry/CategoryOfOpens.v (hunk 1 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicGeometry/CategoryOfOpens.v:3]: I think so! I will formalize this in the coming week.

File: UniMath/AlgebraicGeometry/Topology.v (hunk 2 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicGeometry/Topology.v:1]: I upstreamed it.

File: UniMath/AlgebraicGeometry/PresheafedSpaces.v (hunk 3 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicGeometry/PresheafedSpaces.v:28]: Hm... I believe in this case I just need the unitors and associators of functors. Does this indeed introduce such a large memory consumption, and would there be a way to avoid using bicategories?

File: UniMath/AlgebraicGeometry/PresheafedSpaces.v (hunk 4 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicGeometry/PresheafedSpaces.v:67]: Well, that would be a solution to the question I just asked ^^
Why do they introduce these identities?
And where should these transformations go? FunctorCategory or NaturalTransformations?

File: UniMath/AlgebraicGeometry/PresheafedSpaces.v (hunk 5 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicGeometry/PresheafedSpaces.v:79]: You are right

File: UniMath/AlgebraicGeometry/PresheafedSpaces.v (hunk 6 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicGeometry/PresheafedSpaces.v:232]: In this case, I get `not found in table: core.eq.type`. But in general, I try to use refine instead of rewrite, because it gives smaller terms and faster proofs (and gives more clarity about the location of the rewrite)

File: UniMath/AlgebraicGeometry/PresheafedSpaces.v (hunk 7 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicGeometry/PresheafedSpaces.v:369]: This was somewhat of a request for comments of the reviewer :-)
Shall I add it to a new file in MoreFoundations, or add it to `MoreFoundations/Subtypes`?

File: UniMath/AlgebraicGeometry/RingedSpaces.v (hunk 8 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicGeometry/RingedSpaces.v:33]: Hm, in this case it is a nice thing to have. I'll remove it. Although it really is one of the first steps, because it is hard to do scheme theory without sheaf theory, this part is about the restriction of a sheaf again being a sheaf.

File: UniMath/AlgebraicGeometry/RingedSpaces.v (hunk 9 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicGeometry/RingedSpaces.v:48]: Yes. Would you want me to define it as an hProp or add a lemma directly afterwards? The proof of this is currently contained in `isaprop_has_sheaf`

File: UniMath/AlgebraicGeometry/RingedSpaces.v (hunk 10 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicGeometry/RingedSpaces.v:106]: Hm... But this is like saying `is_unit` on `monoid_data`: the data here is a presheafed space, and this property is about the presheaf part.
In this case, actually I think it would be best to first develop the theory of presheaves and sheaves a bit, before combining them into (pre)sheafed spaces. A couple of properties (for example, maps of stalks) need you to think about sheafs on the same space, before working with sheafed spaces in general.

File: UniMath/AlgebraicGeometry/Schemes.v (hunk 11 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicGeometry/Schemes.v:32]: The reason was that there was an assumption of the axiom of choice, but then I realized that I just needed isomorphism with `Spec_presheafed_space` instead of `Spec_ringed_space`, and the former does not yet need the axiom of choice. I will remove the section.

File: UniMath/AlgebraicGeometry/SheavesOfRings.v (hunk 12 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicGeometry/SheavesOfRings.v:1]: Yes

File: UniMath/Topology/Topology.v (hunk 13 above)
Comment (arnoudvanderleer) [reply UniMath/Topology/Topology.v:5]: Oh, right, sorry, this branch started as a hobby project, and apparently I did some cleaning of Topology.
If you hide whitespace, it already becomes clearer. The main changes are
 - I replaced `X -> hProp` by `hsubtype X`
 - I replaced `(∏ A, P A → O A)` by `(P ⊆ O)`
 - I added the lemmas `subtype_equal_isOpen` and `continuous_iff_reflects_open` (and some stuff related to that last one)
 - I upstreamed `AlgebraicGeometry/Topology` as the section `OpenOperations`

File: UniMath/AlgebraicGeometry/PresheafedSpaces.v (hunk 3 above)
Comment (nmvdw) [reply UniMath/AlgebraicGeometry/PresheafedSpaces.v:28]: > Does this indeed introduce such a large memory consumption

The particular files that you import: no

However, it is good to be strict with this policy, because otherwise it would be difficult to enforce. "Import bicategories as long as the total memory consumption is below whatever"

File: UniMath/AlgebraicGeometry/PresheafedSpaces.v (hunk 4 above)
Comment (nmvdw) [reply UniMath/AlgebraicGeometry/PresheafedSpaces.v:66]: The associators and unitors of functors are defined to be identity natural transformations. They literally are the identity natural transformation.

File: UniMath/AlgebraicGeometry/PresheafedSpaces.v (hunk 3 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicGeometry/PresheafedSpaces.v:28]: That is fair

File: UniMath/AlgebraicGeometry/PresheafedSpaces.v (hunk 6 above)
Comment (nmvdw) [reply UniMath/AlgebraicGeometry/PresheafedSpaces.v:229]: > because it gives smaller terms and faster proofs

While this is true, this difference tends to be negligible in most cases (this piece of code is probably one of them).

> and gives more clarity about the location of the rewrite

That is true, but it forces the user to do more.

File: UniMath/AlgebraicGeometry/PresheafedSpaces.v (hunk 4 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicGeometry/PresheafedSpaces.v:66]: Ah, right.

File: UniMath/AlgebraicGeometry/RingedSpaces.v (hunk 9 above)
Comment (nmvdw) [reply UniMath/AlgebraicGeometry/RingedSpaces.v:48]: It would be good to at least have `isaprop_has_locality`

File: UniMath/AlgebraicGeometry/RingedSpaces.v (hunk 10 above)
Comment (nmvdw) [reply UniMath/AlgebraicGeometry/RingedSpaces.v:106]: Sheaf is always used to indicate a presheaf that is a sheaf. if you thus say 'has sheaf', then I would understand it 'this data together with a sheaf' and not as 'this data is a sheaf'

File: UniMath/AlgebraicGeometry/PresheafedSpaces.v (hunk 7 above)
Comment (nmvdw) [reply UniMath/AlgebraicGeometry/PresheafedSpaces.v:366]: I think it fits in `MoreFoundations/Subtypes`, but I would also like to know @benediktahrens opinion

File: UniMath/AlgebraicGeometry/RingedSpaces.v (hunk 10 above)
Comment (arnoudvanderleer) [reply UniMath/AlgebraicGeometry/RingedSpaces.v:106]: That is fair. But this data is not a sheaf, that is what I am trying to say. Part of this data turns out to form a sheaf, but the data is a space, together with a (pre)sheaf
